US09119868B2
A mixture of 2-(4-chlorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate (10 g, 18 mmol), KF (4.64 g, 79.9 mmol), NaBr (2.48 g, 24 mmol), cyclopropylboronic acid (3.2 g, 37 mmol), and Pd(Ph3P)4 (1.33 g, 1.15 mmol) were added toluene (130 mL) and water (2.8 mL). The reaction flask was evacuated for ˜3 minutes then filled with nitrogen. The reaction mixture was refluxed under nitrogen for 20 hrs then cooled to ambient temperature. The reaction mixture was diluted with EtOAc (150 mL), washed with water (3×200 mL), brine (200 mL), dried with anhydrous sodium sulfate, decanted, and concentrated under reduced pressure. The residue was purified by column chromatography (petroleum ether/ethyl acetate=30/1-10/1) to afford ethyl 2-(4-chlorophenyl)-5-cyclopropyl-6-nitrobenzofuran-3-carboxylate as a yellow solid (7.9 g, 99%).

reactant | 2-(4-chlorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate | 18 mmol, 10 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)[O-])C=C(C(=C2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F
reactant | KF | 79.9 mmol, 4.64 g | [F-].[K+]
reactant | NaBr | 24 mmol, 2.48 g | [Na+].[Br-]
reactant | cyclopropylboronic acid | 37 mmol, 3.2 g | C1(CC1)B(O)O | C3H7BO2
reactant | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)4 | 1.15 mmol, 1.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2.8 mL | O | H2O
product | ethyl 2-(4-chlorophenyl)-5-cyclopropyl-6-nitrobenzofuran-3-carboxylate | 7.9 g, 99% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])C2CC2 | C20H16ClNO5
